US04411901
Reaction of 3-(4-bromobutyl)-2,4-thiazolidinedione with 3-(1-piperazinyl)-1,2-benzisoxazole according to the procedure of Example 3 affords a 44% yield of 3-[4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]butyl]-2,4-thiazolidinedione hydrate, m.p. 104.5°-106.6° C., from methanol.

reactant | 3-(4-bromobutyl)-2,4-thiazolidinedione | BrCCCCN1C(SCC1=O)=O | C7H10BrNO2S
reactant | 3-(1-piperazinyl)-1,2-benzisoxazole | N1(CCNCC1)C1=NOC2=C1C=CC=C2 | C11H13N3O
product | 3-[4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]butyl]-2,4-thiazolidinedione hydrate | 44% yield | O.O1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(SCC2=O)=O | InChI=1S/C18H22N4O3S.H2O/c23-16-13-26-18(24)22(16)8-4-3-7-20-9-11-21(12-10-20)17-14-5-1-2-6-15(14)25-19-17;/h1-2,5-6H,3-4,7-13H2;1H2
